US04031226
A mixture of 8.8 parts of N-(2-chloroethyl)-3-pyridinecarboxamide hydrochloride, 4.6 parts of 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one, 4.24 parts of sodium carbonate and 120 parts of 4-methyl-2-pentanone is stirred and refluxed for 48 hours. The reaction mixture is cooled to room temperature and poured onto water. The product is extracted five times with trichloromethane. The combined extracts are dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is converted into the hydrochloride salt in ethanol and 2-propanol. The salt is filtered off and crystallized from a mixture of methanol and ethanol. It is filtered off again and recrystallized from a mixture of ethanol and 2,2'-oxybispropane, yielding 0.8 parts of N-{2-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]ethyl}-3-pyridinecarboxamide dihydrochloride hydrate; mp. 214.1° C.

reactant | N-(2-chloroethyl)-3-pyridinecarboxamide hydrochloride | Cl.ClCCNC(=O)C=1C=NC=CC1
reactant | 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | N-{2-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]ethyl}-3-pyridinecarboxamide dihydrochloride hydrate | O.Cl.Cl.O=C1NC2=C(N1C1CCN(CC1)CCNC(=O)C=1C=NC=CC1)C=CC=C2 | InChI=1S/C20H23N5O2.2ClH.H2O/c26-19(15-4-3-9-21-14-15)22-10-13-24-11-7-16(8-12-24)25-18-6-2-1-5-17(18)23-20(25)27;;;/h1-6,9,14,16H,7-8,10-13H2,(H,22,26)(H,23,27);2*1H;1H2
